US05962682
Analogously to Example 74, by condensing 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid with 2-aminobiphenyl there was obtained N-biphenyl-2-yl-3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzamide.

reactant | 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)OCCO | C26H29NO8S
reactant | 2-aminobiphenyl | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
product | N-biphenyl-2-yl-3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzamide | C1(=C(C=CC=C1)NC(C1=CC(=C(C(=C1)OCCO)OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)C1=CC=CC=C1 | C38H38N2O7S
